US06806274B1
Using an analogous procedure to that described in the second last paragraph of Note [115] above, 3-dimethylamino-1-propyne was reacted with 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-trifluoromethanesulphonyloxyquinazoline to give 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-(3-dimethylamino-1-propynyl)quinazoline; NMR Spectrum: (DMSOd6) 2.29 (s, 6H), 3.55 (s, 2H), 4.0 (s, 3H), 7.38-7.83 (m, 3H), 7.67 (s, 1H), 8.05 (s, 1H), 8.63 (s, 1H); Mass Spectrum: M+H+ 430 and 432.

reactant | 3-dimethylamino-1-propyne | CN(CC#C)C | C5H9N
reactant | 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-trifluoromethanesulphonyloxyquinazoline | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)OS(=O)(=O)C(F)(F)F)C=CC(=C1)F | C16H9BrF4N2O5S
product | 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-(3-dimethylamino-1-propynyl)quinazoline | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)C#CCN(C)C)C=CC(=C1)F | C20H17BrFN3O2
